US07169808B2
Preparation of 4-[3-(cyclopentyloxy)-4-methoxyphenyl]-4-oxo-butanoic acid (ST 1689)
4.7 g (0.019 mol) of 4-(3,4-dimethoxyphenyl)-4-oxo-butanoic acid (FN 549) are dissolved in 50 ml of 47% HBr in water, heating to reflux for one hour until the reaction compound disappears. The reaction solution is concentrated to dryness, adding acetonitrile several times, and then the dark pitch is extracted hot several times with ethyl ether. On concentrating the organic solution to dryness, 3.3 g of crude product are obtained, which can be used as such in the next reaction. 3.3 g (0.015 mol) of crude 4-(3-hydroxy-4-methoxyphenyl)-4-oxo-butanoic acid (FN 551) are suspended in 30 ml of anhydrous DMF with 6.2 g (0.045 mol) of K2CO3, left under stirring for 30 minutes, and then added with 2.4 ml (0.0225 mol) of bromocyclopentane and heated at 70° C. for 4 hours under a nitrogen atmosphere. After one night at room temperature, the reaction mixture is dried under reduced pressure and the residue obtained is divided between HCl 2N and EtOAc, washing the organic phase with water. The reaction mixture is anhydrified on anhydrous sodium sulphate and evaporated to dryness, obtaining a dark oil which is chromatographed on a silica gel column, eluting with n-hexane/EtOAc. After crystallisation, the same mixture of solvents yields fractions containing the dried product. 0.63 g of product are obtained. Yield 14%.

reactant | 4-(3,4-dimethoxyphenyl)-4-oxo-butanoic acid | 0.019 mol, 4.7 g | COC=1C=C(C=CC1OC)C(CCC(=O)O)=O | C12H14O5
reactant | 4-(3-hydroxy-4-methoxyphenyl)-4-oxo-butanoic acid | 0.015 mol, 3.3 g | OC=1C=C(C=CC1OC)C(CCC(=O)O)=O | C11H12O5
reactant | K2CO3 | 0.045 mol, 6.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromocyclopentane | 0.0225 mol, 2.4 ml | BrC1CCCC1 | C5H9Br
reactant | HCl | 2N | Cl | ClH
solvent | HBr | 50 ml | Br | BrH
solvent | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[3-(cyclopentyloxy)-4-methoxyphenyl]-4-oxo-butanoic acid | 0.63 g, Yield 14% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CCC(=O)O)=O | C16H20O5
